US06756378B2
To a stirred solution of trans-1-tert-butoxycarbonyl-(2S)-(tert-butyldiphenylsilyloxy) methyl-4-hydroxypyrrolidine (910 mg, 2.0 mmol) and Ph3P (628 mg, 2.4 mmol) in THF (20 ml) was added CBr4 (993 mg, 3.0 mmol) at room temperature. The reaction mixture was stirred at room temperature for 0.5 hr. n-Hexane (40 ml) was added thereto. The resulting solid was filtered off, and dried in vacuo. The residue was purified by column chromatography on silica gel with n-hexane to n-hexane-EtOAc (3:2, v/v) as eluent to give cis-4-bromo-1-tert-butoxycarbonyl-(2S)-(tert-butyldiphenylsilyloxy) methylpyrrolidine (1.0 g, quant.) as a pale yellow oil. 1H-NMR (CDCl3) δ1.06 (s, 9H), 1.31 and 1.45 (each s, 9H), 2.63 (m, 2H), 3.49 (m, 1H), 3.89-4.14 (m, 5H), 7.35-7.42 (m, 6H), 7.64-7.66 (,4Hm).

reactant | trans-1-tert-butoxycarbonyl-(2S)-(tert-butyldiphenylsilyloxy) methyl-4-hydroxypyrrolidine | 2.0 mmol, 910 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C26H37NO4Si
reactant | Ph3P | 2.4 mmol, 628 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CBr4 | 3.0 mmol, 993 mg | C(Br)(Br)(Br)Br | CBr4
reactant | n-Hexane | 40 ml | CCCCCC | C6H14
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | cis-4-bromo-1-tert-butoxycarbonyl-(2S)-(tert-butyldiphenylsilyloxy) methylpyrrolidine | 1.0 g | Br[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C26H36BrNO3Si
